US04891372
7-Amino-3-(2-[4-amino-2-methoxybenzamido]ethyl)-1,2,4,5-tetrahydro-3H-3-benzazepine
7-Nitro-3-(2-[2-methoxy-4-nitrobenzamido]ethyl)-1,2,4,5-tetrahydro-3H-3-benzazepine (0.52 g) was stirred under a hydrogen atmosphere [344.7 kPa (50 p.s.i.)] in an ethanol/methanol (1:1) solution at room temperature for 3 hours. The catalyst was then removed by filtration and the filtrate evaporated in vacuo to give the title compound as a foam, yield 0.42 g, which was used directly without further purification.

reactant | 7-Nitro-3-(2-[2-methoxy-4-nitrobenzamido]ethyl)-1,2,4,5-tetrahydro-3H-3-benzazepine | 0.52 g | [N+](=O)([O-])C1=CC2=C(CCN(CC2)CCNC(C2=C(C=C(C=C2)[N+](=O)[O-])OC)=O)C=C1 | C20H22N4O6
solvent | ethanol methanol | C(C)O.CO
product | 7-Amino-3-(2-[4-amino-2-methoxybenzamido]ethyl)-1,2,4,5-tetrahydro-3H-3-benzazepine | NC1=CC2=C(CCN(CC2)CCNC(C2=C(C=C(C=C2)N)OC)=O)C=C1 | C20H26N4O2
